data/rdb19/train.csv
rxn,smiles,ea
1672,[C:15](=[C:16]([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:15]([C:16]([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11],11.91137868462829
5053,[C:11]([C:12]([C:13]([H:14])[H:15])([O:16][C:17](=[O:18])[C:19]([H:24])([H:25])[H:26])[H:23])([H:20])([H:21])[H:22].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:1]([O:2][C:13]([C:12]([C:11]([H:20])([H:21])[H:22])([O:16][C:17](=[O:18])[C:19]([H:24])([H:25])[H:26])[H:23])([H:14])[H:15])([H:5])([H:6])[H:7].[C:3](=[C:4]([H:9])[H:10])[H:8],63.39423745544627
5589,[C:11]([C:12]([C:13]([H:14])[N:15]([C:16](=[O:17])[H:24])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20].[C:1](=[C:2]([N:3]([C:4](=[O:5])[H:10])[H:9])[H:8])([H:6])[H:7]>>[C:1](=[C:2]([N:3]([H:9])[C:13]([C:12]([C:11]([H:18])([H:19])[H:20])([H:21])[H:22])([H:14])[N:15]([C:16](=[O:17])[H:24])[H:23])[H:8])([H:6])[H:7].[C:4](=[O:5])[H:10],42.57730696036015
2424,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:22])([H:23])[H:24])([O:12][C:13](=[O:14])[C:15]([H:25])([H:26])[H:27])[H:21])([H:19])[H:20])([H:16])([H:17])[H:18]>>[C:11]([H:22])([H:23])[H:24].[C:1]([C:2]([H:3])([H:4])[C:10]([C:9]([C:8]([H:16])([H:17])[H:18])([H:19])[H:20])([O:12][C:13](=[O:14])[C:15]([H:25])([H:26])[H:27])[H:21])([H:5])([H:6])[H:7],73.4935384116834
1198,[C:14]([C:15](=[C:16]([H:23])[H:24])[C:17](=[O:18])[O:19][H:25])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:15](=[C:16]([H:23])[H:24])[C:17](=[O:18])[O:19][H:25].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[O:7][H:13])[C:14]([H:20])([H:21])[H:22])([H:11])[H:12])([H:8])([H:9])[H:10],64.42973163805436
5427,[C:19]([C:20]([C:21]([H:22])[H:23])([O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])[H:31])([H:28])([H:29])[H:30].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([N:5][C:6](=[O:7])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:17][C:21]([C:20]([C:19]([H:28])([H:29])[H:30])([O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])[H:31])([H:22])[H:23],26.14559699507663
3903,[C:13]([C:14]([C:15]([H:16])[c:17]1[c:18]([H:28])[c:19]([H:29])[c:20]([H:30])[c:21]([H:31])[c:22]1[H:32])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3](=[C:4][H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[H:11][C:15]([C:14]([C:13]([H:23])([H:24])[H:25])([H:26])[H:27])([H:16])[c:17]1[c:18]([H:28])[c:19]([H:29])[c:20]([H:30])[c:21]([H:31])[c:22]1[H:32],34.231087231019046
3498,[C:17](=[C:18]([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])[H:27])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])=[C:5]([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8].[H:14][C:17]([C:18]([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])[H:27])([H:25])[H:26],29.08633912249934
1009,[C:14]([O:15][C:16](=[O:17])[C:18](=[C:19]([H:24])[H:25])[C:20]([H:26])([H:27])[H:28])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:16](=[O:17])[C:18](=[C:19]([H:24])[H:25])[C:20]([H:26])([H:27])[H:28].[C:1]([C:2]([C:3]([H:4])([H:5])[O:15][C:14]([H:21])([H:22])[H:23])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],49.485281663015485
1464,[C:10]([O:11][C:12]([C:13]([H:21])([H:22])[H:23])([C:14]([H:15])[H:16])[H:20])([H:17])([H:18])[H:19].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C:2]([O:3])([C:4](=[C:5]([H:8])[H:9])[H:7])[C:14]([C:12]([O:11][C:10]([H:17])([H:18])[H:19])([C:13]([H:21])([H:22])[H:23])[H:20])([H:15])[H:16])[H:6],25.90517043962609
3804,[C:13]([C:14]([C:15]([C:16]([H:23])([H:24])[H:25])[C:17]([H:26])([H:27])[H:28])([H:21])[H:22])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[C:15]([C:14]([C:13]([H:18])([H:19])[H:20])([H:21])[H:22])([C:16]([H:23])([H:24])[H:25])[C:17]([H:26])([H:27])[H:28])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7],15.338078089407643
4271,[C:16]([O:17][C:18]([C:19]([H:27])([H:28])[H:29])([C:20]([H:21])[H:22])[H:26])([H:23])([H:24])[H:25].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:16]([O:17][C:18]([C:19]([H:27])([H:28])[H:29])=[C:20]([H:21])[H:22])([H:23])([H:24])[H:25].[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:11])([H:12])[H:26])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10],28.172754448314663
